US07084176B2
A mixture of N-(3-cyclohexylphenyl)-4-hydroxy-3-nitrophenylacetamide (the compound of Example 29) (300 mg), benzyl bromide (287 mg), potassium carbonate (500 mg) and acetone (10 ml) is heated under reflux for 18 hours. After cooling, water is added to the mixture, and the mixture is extracted with ethyl acetate. The organic layer is dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give 4-benzyloxy-N-(3-cyclohexylphenyl)-3-nitrophenylacetamide (320 mg). This product is dissolved in ethanol (5 ml), and thereto are added reduced iron (200 mg), ammonium chloride (80 mg) and water (5 ml), and the mixture is heated under reflux for one hour. The reaction solution is filtered through Celite, and the filtrate is concentrated, and the residue is dissolved in chloroform. The organic layer is washed with water, dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (240 mg).

reactant | N-(3-cyclohexylphenyl)-4-hydroxy-3-nitrophenylacetamide | C1(CCCCC1)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C20H22N2O4
reactant | benzyl bromide | 287 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-benzyloxy-N-(3-cyclohexylphenyl)-3-nitrophenylacetamide | 320 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)NC1=CC(=CC=C1)C1CCCCC1)[N+](=O)[O-] | C27H28N2O4
